US07754107B2
Thereafter, 500 mg of (1-pyrenyl)methyl 5-(1,2-dithiolan-3-yl)pentanoate was dissolved in DI water, 30 mg of NaBH4 was added, and the solution was stirred for 30 min at room temperature. The organic phase in the mixture solution was extracted by chloroform and dehydrated by anhydrous MgSO4, and then the organic solvent in the organic phase was removed leaving (1-pyrenyl)methyl 6,8-dimercaptooctanoate as a linking molecule. Because the 1H-NMR spectrum thereof was similar to that before the reduction reaction and the reverse reaction occurred readily, the product was not characterized but directly used to form covalent bonds with the quantum dots.

reactant | (1-pyrenyl)methyl 5-(1,2-dithiolan-3-yl)pentanoate | 500 mg | S1SC(CC1)CCCCC(=O)OCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C25H24O2S2
reactant | NaBH4 | 30 mg | [BH4-].[Na+]
solvent | DI water | O | H2O
product | (1-pyrenyl)methyl 6,8-dimercaptooctanoate | SC(CCCCC(=O)OCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CCS | C25H26O2S2
